US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-tryptophan
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to L-tryptophan methyl ester hydrochloride using the procedure described in Method 3. The title compound was prepared via hydrolysis of the methyl ester using LiOH in THF/water.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | L-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | LiOH | [Li+].[OH-]
solvent | THF water | C1CCOC1.O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-tryptophan | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)CCC1)C | C23H25N3O5S
